US09120777B2
B) 5-Bromo-6-(4-fluorophenyl)-2-hydroxynicotinonitrile
N-Bromosuccinimide (3.66 g) was added to a mixture of 6-(4-fluorophenyl)-2-hydroxynicotinonitrile (4.00 g), THF (30 mL), and methanol (30 mL), and the resultant mixture was stirred at room temperature for 10 minutes. The solvent was distilled off, and the obtained residue was suspended in a mixed solvent of water, ethyl acetate, and hexane. Then, the obtained solid was washed with hexane to obtain the title compound (5.18 g).

reactant | N-Bromosuccinimide | 3.66 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-(4-fluorophenyl)-2-hydroxynicotinonitrile | 4.00 g | FC1=CC=C(C=C1)C1=NC(=C(C#N)C=C1)O | C12H7FN2O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
product | 5-Bromo-6-(4-fluorophenyl)-2-hydroxynicotinonitrile | 5.18 g | BrC=1C(=NC(=C(C#N)C1)O)C1=CC=C(C=C1)F | C12H6BrFN2O
